US05157026
3-[2'-(N-triphenylmethyltetrazol-5-yl)biphen-4-yl]methyl-7-methyl-2-propyl-3H-imidazo[4,5-b]pyridine was prepared according to the procedure described in Example 7, Part A from 2-propyl-7-methylimidazo[4,5-b]pyridine (991 mg, 5.66 mmol), N-triphenylmethyl-5-(4'-bromomethylbiphen-2-yl)tetrazole (3.0 g, 5.39 mmol), and NaH (6.47 mmol).

reactant | 2-propyl-7-methylimidazo[4,5-b]pyridine | 5.66 mmol, 991 mg | C(CC)C=1NC=2C(=NC=CC2C)N1 | C10H13N3
reactant | N-triphenylmethyl-5-(4'-bromomethylbiphen-2-yl)tetrazole | 5.39 mmol, 3.0 g | C1(=CC=CC=C1)C(N1N=NN=C1C1=CC=CC=C1C1=CC=C(C=C1)CBr)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
reactant | NaH | 6.47 mmol | [H-].[Na+]
product | 3-[2'-(N-triphenylmethyltetrazol-5-yl)biphen-4-yl]methyl-7-methyl-2-propyl-3H-imidazo[4,5-b]pyridine | C1(=CC=CC=C1)C(N1N=NN=C1C1=C(C2=CC=C(C=C2)CN2C(=NC=3C2=NC=CC3C)CCC)C=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C43H37N7
